US09260427B2
Tert-butyl (S)-3-(2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(2-cyclohexylethoxy)phenyl)-pyrimidin-2-yl)phenyl)propanamido)propanoate
Prepared using General Procedure 12 from tert-butyl (S)-3-(2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-hydroxyphenyl)pyrimidin-2-yl)phenyl)propanamido)propanoate and (2-bromoethyl)cyclohexane. LCMS-ESI (m/z) calculated for C45H56N4O5: 732.9. found 733.5 [M+H]+, tR=5.59 min. (Method 16).

reactant | tert-butyl (S)-3-(2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-hydroxyphenyl)pyrimidin-2-yl)phenyl)propanamido)propanoate | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)NCCC(=O)OC(C)(C)C)CC2=CC=C(C=C2)C2=NC=C(C=N2)C2=CC=C(C=C2)O)C=C1 | C37H42N4O5
reactant | (2-bromoethyl)cyclohexane | BrCCC1CCCCC1 | C8H15Br
product | Tert-butyl (S)-3-(2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(2-cyclohexylethoxy)phenyl)-pyrimidin-2-yl)phenyl)propanamido)propanoate | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)NCCC(=O)OC(C)(C)C)CC2=CC=C(C=C2)C2=NC=C(C=N2)C2=CC=C(C=C2)OCCC2CCCCC2)C=C1 | C45H56N4O5
